US09233979B2
(R)-1-(3-(ethylamino)-4-methyl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea
A conical vial was charged with (R) -1-(3-amino-4-methyl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (32 mg, 0.103 mmol) and magnesium sulfate (37.2 mg, 0.309 mmol). chloroform (666 μl), methanol (333 μl), magnesium sulfate (37.2 mg, 0.309 mmol) and trifluroacetic acid (23.83 μl, 0.309 mmol) were injected and the reaction was stirred at ambient temperature for 1 hour. Sodium cyanoborohydride (19.44 mg, 0.309 mmol) was then added and stirring was continued for one hour. The reaction was diluted with water and the aqueous layer was transferred to a separatory funnel and washed 3×chloroform/IPA. The combined organic washings were dried over magnesium sulfate and then filtered and concentrated. The residue was dissolved in DMSO (2 mL) filtered and delivered to the purification group. Reversed phase mass triggered HPLC was performed. The active fractions were dried down on the Genevac which was free-based with NH3 in MeOH (7N) and concentrated to yield a white solid (14 mg, 40.1%). MS ESI calc'd for C18H22N6O [M+H]+ 339. found 339. 1H NMR (ppm, 500 Mhz, DMSO-d6): δ 11.52 (s, 1H), 8.88 (s, 1H), 8.39 (s, 1H), 7.45-7.09 (m, 5H), 7.00-6.95 (m, 1H), 5.41 (q, J=5.6 Hz, 1H), 4.98-4.69 (m, 1H), 3.26-3.15 (m, 2H), 2.61 (s, 3H), 1.44-1.35 (m, 3H), 1.19 (dd, J=3.6 Hz, 3H).

reactant | (R) -1-(3-amino-4-methyl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.103 mmol, 32 mg | NC1=NNC2=C1C(=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C | C16H18N6O
reactant | magnesium sulfate | 0.309 mmol, 37.2 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | magnesium sulfate | 0.309 mmol, 37.2 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | trifluroacetic acid | 0.309 mmol, 23.83 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | Sodium cyanoborohydride | 0.309 mmol, 19.44 mg | C(#N)[BH3-].[Na+]
solvent | water | O | H2O
solvent | methanol | 333 μl | CO | CH4O
solvent | chloroform | 666 μl | C(Cl)(Cl)Cl | CHCl3
product | (R)-1-(3-(ethylamino)-4-methyl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 14 mg, 40.1% | C(C)NC1=NNC2=C1C(=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C | C18H22N6O
